US07935722B2
Cyclopropanecarboxylic acid [6-bromo-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Mix 6-bromo-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylamine hydrochloride (195 mg, 0.48 mmol), triethylamine (210 μL, 1.5 mmol), cyclopropanecarbonyl chloride chloride (55 μL, 0.6 mmol) in dichloromethane (10 mL) and stir at room temperature for 18 h. Shake the reaction with dilute HCl/water/EtOAc. Dry (MgSO4) the organic layer and concentrate to give 120 mg crude product. Recrystallize (EtOH) to give 50 mg (24%) of the title compound. MS (ES): m/z 441, 443 (M+1); 1H NMR (CDCl3): δ 7.63 (s, 1H), 7.27 (m 2H), 7.08 (d,1H), 6.92 (t, 1H), 6.75 (d, 1H), 6.63 (d, 1H), 5.58 (br d, 1H), 5.23 (s, 2H), 4.44 (br m, 1H), 3.13 (dd, 1H), 2.74 (m, 2H), 2.64 (dd,1H), 2.23 (m,2H), 2.16 (m,1H), 2.02 (m,1H), 1.09 (m,4H); HPLC: Rt=3.55 min, (95%).

reactant | 6-bromo-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-ylamine hydrochloride | 0.48 mmol, 195 mg | Cl.BrC=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)N
reactant | triethylamine | 1.5 mmol, 210 μL | C(C)N(CC)CC | C6H15N
reactant | HCl water EtOAc | Cl.O.CCOC(=O)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid [6-bromo-9-(3-fluoro-benzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 50 mg, 24% | BrC=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NC(=O)C1CC1 | C23H22BrFN2O
